Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Neurontin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ Exploratory laparotomy
___ EGD
___ EGD nasojejeunal placed and bridled (removed ___ CT-guided placement of an ___ pigtail catheter into 
the lesser sac collection. (removed ___
PICC placement. 

 
History of Present Illness:
___ man with multiple recent admissions for waxing
and waning abdominal pain, history of EtOH/hep C cirrhosis, now
presents with 24 hours of acutely worsening epigastric pain
associated with multiple episodes of emesis and dark stools. 
Patient states that his abdominal pain was at its baseline
yesterday at which point he noticed an acute worsening of his
pain that he describes as sharp and in his upper abdomen.  He
also had several episodes of emesis, reporting his vomit as 
being
dark brown in character.  Decided to re-present to ED for
reevaluation of abdominal pain given acute worsening status. 
Most recently presented to the ED over the weekend where he got 
a
CT abdomen pelvis that did not show any acute interval changes
compared to prior scans.  Was discharged home with expectant
management, transplant surgery was not consulted at that time. 
Now, underwent repeat CT scan showing free air and fluid in the
lesser sac concerning for gastric perforation.  Transplant
surgery is consulted for surgical management of this disease.

ROS:
(+) per HPI

 
Past Medical History:
 - Hepatitis C (genotype 3)  
 - Cirrhosis, Child's Class C due EtOH and HCV d/b hepatic 
encephalopathy, portal hypertension with ascites and esophageal 
varices, portal hypertensive gastropathy  
 - Gastric & Duodenal ulcers  
 - Insomnia  
 - Umbilical hernia  
 - Sacral osteoarthritis  
 
Past Surgical History:  
 - Umbilical hernia repair (___)  
 -SBO requiring Ex lap & repair of ruptured umbilical hernia 
with lysis of adhesions (___)
 - Abdominal Hematoma evacuation (___)  
 - Abdominal incision opened, wound vac placed (___) 
 
Social History:
___
Family History:
Sister and brother both with "collapsed lungs." No family 
history of liver disease.
 
Physical Exam:
Admission Physical Exam:
=========================
Vitals: T 97.8 HR 96 BP 145/79 RR 20 100 RA
GEN: A&O, uncomfortable appearing
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: No respiratory distress
ABD: Firm, tender to percussion in the epigastric region,
guarding present, moderately distended, no fluid wave 
DRE: Deferred
Neuro: CSM grossly intact x 4
Ext: No ___ edema, UE and ___ warm and well perfused bilat

Discharge Physical Exam:
=========================
VS:97.5  95/56 65 18 99 Ra 
GENERAL: cachectic appearing older male, sitting up in bed, more
conversant and interactive today. 
HEENT: anicteric sclera, temporal muscle wasting 
Neck: supple 
HEART: irregular rhythm, no m/r/g
LUNGS: CTAB on anterior exam 
ABDOMEN: protuberant but soft, +BS, tenderness to palpation
in right upper quadrant, midline surgical incision with staples
removed, well healed, dressing over RLQ with drain place 
draining
dark brown serosanguineous fluid 
EXTREMITIES: no lower extremity edema, no clubbing or cyanosis
SKIN: no jaundice, warm and dry 
NEURO: alert, oriented, no asterixis, moving all extremities 

 
Pertinent Results:
Admission Labs: ___ 02:35AM 
================
WBC-15.9*# RBC-3.39* Hgb-11.7* Hct-35.5* MCV-105* MCH-34.5* 
MCHC-33.0 RDW-14.7 RDWSD-56.3* Plt ___ PTT-29.5 ___
Glucose-122* UreaN-15 Creat-0.5 Na-134* K-4.3 Cl-97 HCO3-22 
AnGap-15
ALT-24 AST-63* AlkPhos-92 TotBili-2.5*
Lipase-24
Calcium-6.8* Phos-3.7 Mg-1.7
Triglyc-36

Microbiology
============
Blood Culture, Routine (Final ___:    NO GROWTH. 
HELICOBACTER PYLORI ANTIBODY TEST (Final ___:  NEGATIVE BY 
EIA.(Reference Range-Negative). 
 
___ 7:44 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

Imaging:
=========
CT Abdomen Pelvis ___
IMPRESSION: 
1. Free air and increased fluid within the lesser sac concerning 
for 
perforated viscus, which could be from the stomach based on 
location. 
2. Mildly dilated small bowel bowel a transition point.  This 
could represent ileus versus partial small bowel obstruction.  
No initial in of the bowel or pneumatosis. 
3. Cirrhotic liver with findings of portal hypertension 
including varices and ascites. 

Upper GI Contrast Study: ___
IMPRESSION: Leak of contrast from the posterior antrum of the 
stomach. 

CXR: ___
COMPARISON:  ___ 
IMPRESSION:  Pulmonary edema has slightly worsened.  
Cardiomediastinal silhouette is stable.  Left-sided PICC line is 
unchanged the NG tube projects below the left hemidiaphragm.  
Small bilateral effusions left greater than right are  
unchanged.  No pneumothorax is seen 

CT Abdomen Pelvis ___
IMPRESSION:
1. A 8.5 x 5.9 cm loculated fluid collection with rim 
enhancement in the 
lesser sac is identified.  Compared to ___, the fluid 
collection 
demonstrates thicker and more discrete wall. 
2. Small ascites and peritonitis is similar to before. 
3. Liver cirrhosis with mild splenomegaly and portosystemic 
shunt. 
4. Small bilateral pleural effusions.
 
CT Abdomen for Interventional Procedure: ___
IMPRESSION: Successful CT-guided placement of an ___ 
pigtail catheter into the lesser sac collection.  Samples were 
sent for microbiology evaluation. 

Abdominal Ultrasound ___:
IMPRESSION:  No fluid pocket amenable to percutaneous sampling.  
A diagnostic paracentesis was not performed. 
  

Transfer Labs: ___ 06:32AM
===============
WBC-5.0 RBC-2.99* Hgb-9.7* Hct-31.0* MCV-104* MCH-32.4* 
MCHC-31.3* RDW-17.1* RDWSD-64.6* Plt ___ PTT-28.8 ___
Glucose-108* UreaN-15 Creat-0.5 Na-137 K-4.5 Cl-106 HCO3-24 
AnGap-7*
ALT-18 AST-58* AlkPhos-194* TotBili-1.2
Albumin-2.2* Calcium-7.3* Phos-2.6* Mg-1.8

Discharge Labs: ___ 05:55AM
===============
WBC-4.2 RBC-2.72* Hgb-9.0* Hct-28.7* MCV-106* MCH-33.1* 
MCHC-31.4* RDW-16.6* RDWSD-65.1* Plt ___
Glucose-97 UreaN-14 Creat-0.5 Na-136 K-4.8 Cl-105 HCO3-21* 
AnGap-10
ALT-19 AST-59* AlkPhos-198* TotBili-1.2
Albumin-2.1* Calcium-7.3* Phos-2.6* Mg-1.8

 
Brief Hospital Course:
Summary: 
---------
Mr ___ is a ___ man with alcoholic and hepatitis C 
cirrhosis who presented with abdominal pain, and was found to 
have a perforated inoperable duodenal and stomach ulcer.  

Active Issues:
--------------
# DUODENAL AND GASTRIC ULCERS with
# ___ GUIDED DRAINAGE OF LESSER SAC COLLECTION:
The patient presented to the ___ Emergency Department with 
abdominal pain. There was evidence of perforated ulcer on both 
CT abdomen and upper GI series (posterior antral leak to lesser 
sac). Initially he was kept NPO with IV hydration and placed on 
broad-spectrum antibiotics with pip-tazo and fluconazole from 
___. 
He underwent EGD on ___ with the following finding: large 
ulcer measuring approximately 5-6cm was seen in the first part 
of the duodenum.  There was likely perforation around the edge 
of the ulcer measuring 2-3cm -This appeared contained. The 
perforation was too large for endoscopic intervention. There was 
also moderate to severe esophagitis in the distal esophagus with 
portal hypertensive gastropathy seen. H. pylori was negative. He 
was put on the maximum dose of PPI.  A NG was in place. 
He underwent exploratory laparotomy by Dr. ___, but 
was found to have a frozen abdomen thus unable to see perforated 
stomach. Postop, he was transferred to the SICU for management 
as he was hypotensive and hematocrit had decreased. He was given 
albumin and 4 units of PRBC. Hct stabilized, but on ___, he 
had brief episode of SVT with rate of 160 without blood pressure 
drop; afib with intermittent RVR that was treated with 
metoprolol IV x 2 with decrease in BP. The patient required 
pressors and amiodarone was started (please see #Afib below). 

He transferred out of the SICU and was started on TPN. Afib was 
managed with metoprolol. Metoprolol dose was increased and he 
was given intermittent doses of Lasix for volume control and 
pulmonary edema seen on CXR. 

His diet was initially advanced to clears then full liquids. 
However, he did not tolerate advancement to a regular diet. He 
experienced a lot of abdominal pain. Diet was changed to just 
sips of clears and pain was managed with a Dilaudid PCA.  His 
diet was eventually changed to tube feeds and then regular diet 
as per an initial goals of care discussion. An abdominal CT 
___ an 8cm loculated fluid collection in lesser 
sac. He then underwent ___ placement of a drain in the 
fluid collection. Microbiology evaluation of the fluid 
collection did not grow any organisms, so antibiotics were 
discontinued on ___.  ___ continued to follow the drain until 
output was < 5cc for 2 consecutive days, at which point the 
drain was pulled.  Diet was advanced slowly for comfort, with 
supplemental nutrition from nasogastric tube feeds.  After a 
goals of care meeting on ___, Pt endorsed a desire to 
transition towards measures that would improve his comfort.  In 
light of this, his NGT was pulled ___ and he was permitted a 
regular PO diet, which he tolerated well. Patient was continued 
on sucralfate for continued gastric coating and comfort.  PPI 
and other unnecessary medicines were held.

# GOALS OF CARE DISCUSSION:
Pt with poor prognosis due to his perforated viscus, surgically 
frozen abdomen, and non-transplant candidacy.  A goals of care 
meeting was held on ___ with the patient and his friend, as 
well as newly-chosen HCP, ___.  At this meeting, Pt 
acknowledged the severity of his illness and endorsed a 
willingness to transition his course more towards 
comfort-focused care.  Medicines that would not contribute to 
his comfort were discontinued.  Unnecessary tubes and lines, 
including his NGT and PICC line, were removed prior to 
discharge.  Patient was discharged to a ___ facility for 
housing and further titration of his care.

# ETOH/HCV CIRRHOSIS with
# ASCITES and
# NEED FOR SBP PPX:
Previously complicated by hepatic encephalopathy, ascites, grade 
I esophageal varices.  Pt without significant hepatic 
encephalopathy or large ascites during his hospital stay; he was 
initially put on oral diuretics to minimize the ascites and risk 
of wound dehiscence, but these were held in the setting of 
significant weight loss while on tube feeds and overall hypo- to 
euvolemic appearance on exam.  Patient was continued on Bactrim 
for SBP prophylaxis.  He was continued on lactulose to keep his 
mental status clear.  Given goals of care discussion as above, 
vitamins such as thiamine and multivitamin were discontinued.

# ATRIAL FIBRILLATION:
Had one episode of Afib on ___, for which he was amiodarone 
loaded and started on amio gtt.  He was stable on PO metoprolol 
in-house, though sometimes limited due to soft blood pressures.  
He had a CHADS-VASC of 0.  Given his goals of care discussion at 
discharge, PO metoprolol was discontinued.  Anticoagulation was 
deferred given recent surgery as well as goals of care 
discussion as above.

# NUTRITION:
Initially requiring TPN, then tube feeds by ___.  He 
continued to lose muscle mass despite optimal nutrition on TF's. 
 After goals of care discussion ___, patient was provided with 
a regular diet - which he tolerated well.  

TRANSITIONAL ISSUES:
--------------------
# CODE STATUS:  DNR/DNI, CMO, Do not Hospitalize
# CONTACT:  Friend/HCP, ___ (___)

[ ] GOALS OF CARE:
- Pt transitioned to DNR/DNI and comfort measures only, given 
his poor prognosis and lack of surgical alternatives for his 
medical conditions.

[ ] PAIN MANAGEMENT:
- If patient is requiring more than 3 daily doses of oxycodone 
for breakthrough pain, consider uptitrating his TID oxyconTIN 
for further long-lasting pain relief.

[ ] MEDICATION CHANGES:
- Added:  Oxycodone 10mg PO q2h:PRN breakthrough pain, 
acetaminophen 500mg Q6H, Bactrim DS 1 tab daily, lidocaine 
patch, oxyconTIN 20mg PO TID, sucralfate 1gm PO QID, 
polyethylene glycol 17g daily
- Changed:  Lactulose (QID -> TID), Bactrim (1 SS tab -> 1 DS 
tab for SBP Ppx)
- Stopped: Metoprolol, Vitamins, furosemide, lansoprazole
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO BID 
2. Furosemide 20 mg PO DAILY 
3. Lactulose 30 mL PO QID 
4. Spironolactone 50 mg PO DAILY 
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY SBP prophylaxis 
6. Polyethylene Glycol 17 g PO DAILY 
7. Bisacodyl ___AILY:PRN constipation 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Potassium Chloride 20 mEq PO DAILY 
11. Simethicone 40-80 mg PO TID:PRN gas pain 
12. Thiamine 100 mg PO DAILY 
13. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Acetaminophen 500 mg NG Q6H  
2.  Lidocaine 5% Patch 1 PTCH TD QAM 
apply to abdomen
remove in pm  
3.  OxyCODONE SR (OxyconTIN) 20 mg PO TID abdominal pain 
RX *oxycodone 5 mg/5 mL 20 mL by mouth three times a day 
Refills:*0 
4.  Simethicone 40-80 mg PO TID:PRN gas pain  
5.  Sucralfate 1 gm PO QID  
6.  Sulfameth/Trimethoprim DS 1 TAB PO/NG DAILY  
7.  OxyCODONE (Immediate Release) 10 mg PO Q2H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg/5 mL 10 mL by mouth every 2 hours Refills:*0 
8.  Bisacodyl ___AILY:PRN constipation  
9.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
10.  Lactulose 30 mL PO TID  
11.  Multivitamins 1 TAB PO DAILY  
12.  Polyethylene Glycol 17 g PO DAILY  
13.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Gastric perforation, frozen abdomen.
Duodenal ulcer
Esophagitis

SECONDARY DIAGNOSES:
portal hypertensive gastropathy
anemia
malnutrition
Cirrhosis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were having pain in your abdomen. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were found to have a hole in your intestine (perforated 
ulcer), that could not be repaired due to scarred down tissue in 
your abdomen (frozen abdomen)
- You were given antibiotics to prevent infection
- You had a temporary drain placed in your abdomen to drain an 
infection, and this was removed. 
- You initially were given a feeding tube to bypass the hole, 
but as it healed from the inside, you were able to eat regular 
food. 
- Because you were so sick and there was no cure for your 
advance liver disease and holes in your stomach and intestines, 
you chose hospice care. 

WHAT SHOULD I DO WHEN I GO HOME
-Take medications to help your pain
-Eat for comfort

Thank you for letting us be a part of your care!

Your ___ Team

 
Followup Instructions:
___